US07319103B2
9-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-1,2,3,4-tetrahydro-acridine
The product from the previous step, 4-(1,2,3,4-Tetrahydro-acridin-9-yl)-phenol (22 mg, 0.08 mmol), 1-(3-Chloropropyl)-pyrrolidine (18 mg, 0.12 mmol), and K2CO3 (17 mg, 0.12 mmol) were mixed in NMP (267 uL) and stirred rapidly at 80° C. for 90 minutes in a sealed vial. The reaction mixture was cooled, partitioned between Et2O (50 mL) and H2O (10 mL). The organic layer was washed with H2O (3×10 mL), sat. aq. NaCl (10 mL), dried over Na2SO4, decanted and concentrated. The residue was purified using preparative LCMS to give product the desired product.

reactant | 4-(1,2,3,4-Tetrahydro-acridin-9-yl)-phenol | 0.08 mmol, 22 mg | C1CCCC2=NC3=CC=CC=C3C(=C12)C1=CC=C(C=C1)O | C19H17NO
reactant | 1-(3-Chloropropyl)-pyrrolidine | 0.12 mmol, 18 mg | ClCCCN1CCCC1 | C7H14ClN
reactant | K2CO3 | 0.12 mmol, 17 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 267 uL | CN1CCCC1=O | C5H9NO
product | 9-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-1,2,3,4-tetrahydro-acridine | N1(CCCC1)CCCOC1=CC=C(C=C1)C=1C2=CC=CC=C2N=C2CCCCC12 | C26H30N2O
